US07053057B2
(S)-1-(2-Pyridinylmethoxycarbonyl)-piperidine-2-carboxylic acid methyl ester
To a solution of 2-pyridylcarbinol (209 □L, 2.17 mmol) and dry THF (10 mL) at 0° C. under an atmosphere of nitrogen was added NaH (60% dispersion in mineral oil, 87 mg, 2.17 mmol), and the reaction mixture was stirred at 0° C. for 30 mins. This mixture was then added dropwise to a solution of (S)-1-(chlorocarbonyl)-2-piperidinecarboxylic acid methyl ester (EP 75737) (425 mg, 2.06 mmol) and dry THF (10 mL) at 0° C. The reaction mixture was allowed to stir for 1.5 h while warming to room temperature, then poured onto aq.KHSO3 (25 mL ) and extracted with EtOAc (2×50 mL). The combined organic phases were washed with aq.NaHCO3, followed by brine, dried (MgSO4), filtered and concentrated in vacuo. The residue was purified by column chromatography (30% ethyl acetate in hexane) to give the title compound as a colorless oil (340 mg, 59%): 1H NMR (400 MHz, CDCl3) δ 1.3–1.8 (5H, m), 2.3 (1H, bs), 3.0 (0.5H, t, J 12.0 Hz), 3.1 (0.5H, t, J 12.0 Hz), 3.9 (3H, s), 4.2 (1H, m), 5.0 (1H, m), 5.3 (2H, dd, J 14.0 Hz), 7.2–7.4 (2H, m), 7.7 (1H, m), 8.6 (1H, m)

reactant | 2-pyridylcarbinol | 2.17 mmol | N1=C(C=CC=C1)CO | C6H7NO
reactant | NaH | 2.17 mmol, 87 mg | [H-].[Na+]
reactant | (S)-1-(chlorocarbonyl)-2-piperidinecarboxylic acid methyl ester | 2.06 mmol, 425 mg | COC(=O)[C@H]1N(CCCC1)C(=O)Cl | C8H12ClNO3
reactant | THF | 10 mL | C1CCOC1 | C4H8O
reactant | THF | 10 mL | C1CCOC1 | C4H8O
product | (S)-1-(2-Pyridinylmethoxycarbonyl)-piperidine-2-carboxylic acid methyl ester | 340 mg, 59% | COC(=O)[C@H]1N(CCCC1)C(=O)OCC1=NC=CC=C1 | C14H18N2O4
